US07579473B2
A mixture of 7-benzyloxy-4-chloro-6-methoxyquinoline (30 g, 100 mmol), N-(3-fluoro-4-hydroxyphenyl)-N′-(2-phenylethyl)ethanediamide (32 g, 106 mmol), DMAP (125 g, 1.02 mol) and bromobenzene (500 mL) was heated to reflux for 6 h. The mixture was cooled to room temperature and the bromobenzene was removed under reduced pressure. Methanol (500 mL) was added to the residue and the mixture was stirred at room temperature for 2 h. The resulting solid was filtered, washed with methanol and dried to give N-{4-[(7-benzyloxy-6-methoxyquinolin-4-yl)oxy]-3-fluorophenyl}-N′-(2-phenylethyl)ethanediamide (34 g, 61%). 1H NMR (400 MHz, d6-DMSO): δ 11.05 (s, 1H), 9.15 (s, 1H), 8.47 (d, 1H), 8.05 (d, 1H), 7.84 (d, 1H), 7.56-6.36 (m, 13H), 6.46 (d, 1H), 5.32 (s, 2H), 3.97 (s, 3H), 3.47 (q, 2H), 2.86 (t, 2H); 13C NMR (100 MHz, d6-DMSO): δ 160.5, 160.2, 159.9, 159.5, 155.2, 152.7, 152.2, 150.3, 149.6, 146.9, 139.7, 137.4, 137.3, 137.2, 137.1, 129.3, 129.2, 129.1, 129.0, 128.9, 128.7, 128.6, 126.9, 124.8, 117.9, 115.3, 109.9, 102.8, 99.8, 70.6, 56.5, 41.3, 35.2; IR (cm−1): 1657, 1510, 1481, 1433, 1416, 1352, 1310, 1252, 1215, 1609, 986, 891, 868, 850, 742, 696; LC/MS (M+H=566).

reactant | 7-benzyloxy-4-chloro-6-methoxyquinoline | 100 mmol, 30 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)OC | C17H14ClNO2
reactant | N-(3-fluoro-4-hydroxyphenyl)-N′-(2-phenylethyl)ethanediamide | 106 mmol, 32 g | FC=1C=C(C=CC1O)NC(C(=O)NCCC1=CC=CC=C1)=O | C16H15FN2O3
catalyst | DMAP | 1.02 mol, 125 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | bromobenzene | 500 mL | BrC1=CC=CC=C1 | C6H5Br
product | N-{4-[(7-benzyloxy-6-methoxyquinolin-4-yl)oxy]-3-fluorophenyl}-N′-(2-phenylethyl)ethanediamide | 34 g, 61% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(C(=O)NCCC1=CC=CC=C1)=O)F)OC | C33H28FN3O5
